US05532349
In 1.1 liters of methanol, 52 g of 2-deoxy-D-erythro-pentose was dissolved, and 3.8 ml of 1M hydrochloric acid solution in methanol was added at room temperature, followed by stirring the resulting solution at room temperature for 1 hour. To the reaction mixture, 1 g of sodium hydrogen carbonate was added and the resultant was concentrated after confirming that the solution was weakly basic. To the residue, 100 ml of toluene and 100 ml of pyridine were added to dissolve the residue and the resultant was concentrated. This operation was repeated totally twice to completely remove methanol. The thus obtained crude methyl 2-deoxy-α-D-erythro-pentofuranoside was used in the subsequent step without purification.

reactant | 2-deoxy-D-erythro-pentose | 52 g | O=CC[C@H](O)[C@H](O)CO | C5H10O4
reactant | hydrochloric acid | 1M, 3.8 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 1 g | C(O)([O-])=O.[Na+]
solvent | methanol | 1.1 liters | CO | CH4O
product | methyl 2-deoxy-α-D-erythro-pentofuranoside | O([C@@H]1C[C@H](O)[C@H](O1)CO)C | C6H12O4
